US07091348B2
To an ice cold solution of 4-{[(4-hydroxymethyl-phenyl)-methyl-amino]-methyl}-benzoic acid methyl ester (0.5 g, 1.8 mmol) and 3-isopropenyl-phenyl)-dimethyl-amine (0.31 g, 1.9 mmol) in methylene chloride (CH2Cl2, 25 mL)) is added dropwise a solution of boron trichloride (1 M BCl3 in CH2Cl2, 2 mL). The reaction mixture is allowed to stir overnight at room temperature cooled to −15° C. (NaCl/water) followed by dropwise addition of concentrated sulfuric acid (12 mL). Methylene chloride is removed and the mixture is allowed to stand at 40° C. over a period of 16 h. The resulting solution is poured into crushed ice and neutralized with 2 N sodium hydroxide. The aqueous solution is extracted with methylene chloride (2×75 ml), dried (Na2SO4) and concentrated giving the 9,10-dihydro-anthracene as a residue.

reactant | 4-{[(4-hydroxymethyl-phenyl)-methyl-amino]-methyl}-benzoic acid methyl ester | 1.8 mmol, 0.5 g | COC(C1=CC=C(C=C1)CN(C)C1=CC=C(C=C1)CO)=O | C17H19NO3
reactant | dimethyl-amine | 1.9 mmol, 0.31 g | CNC | C2H7N
reactant | boron trichloride | 1 M, 2 mL | B(Cl)(Cl)Cl | BCl3
reactant | NaCl water | [Na+].[Cl-].O
reactant | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 9,10-dihydro-anthracene | C1=CC=CC=2CC3=CC=CC=C3CC12 | C14H12
